US04665068
A mixture of 2.01 g of (±)-cis-2-(4-methoxyphenyl)-3-hydroxy-9-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one, 0.95 g of 2-(dimethylamino)ethyl chloride hydrochloride, 2.49 g of powdered potassium carbonate, 60 ml of acetone and 0.6 ml of water is refluxed for 23 hours. After the reaction is completed, insoluble materials are removed by filtration. The filtrate is evaporated to remove solvent. The residue is digested with isopropyl ether and the resultant crystals are collected by filtration and recrystallized from ethyl acetate. 1.84 g of (±)-cis-2-(4-methoxypheny)-3-hydroxy-5-[2-(dimethylamino)ethyl]-9-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one are obtained. Yield: 75.4%

reactant | (±)-cis-2-(4-methoxyphenyl)-3-hydroxy-9-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 2.01 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(NC([C@@H]1O)=O)C=CC=C2Cl | C16H14ClNO3S
reactant | 2-(dimethylamino)ethyl chloride hydrochloride | 0.95 g | Cl.CN(CCCl)C
reactant | potassium carbonate | 2.49 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 60 ml | CC(=O)C | C3H6O
solvent | water | 0.6 ml | O | H2O
product | (±)-cis-2-(4-methoxypheny)-3-hydroxy-5-[2-(dimethylamino)ethyl]-9-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 1.84 g, Yield: 75.4% | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1O)=O)CCN(C)C)C=CC=C2Cl | C20H23ClN2O3S
